US06194447B1
2-Nitro-N-(4-(2-thiazolylamino)phenyl)aniline.
2-Nitro-N-(4-aminophenyl)aniline (5.0 g, 21.8 mmol), 2-bromothiazole (3.58 g, 21.8 mmol) and potassium carbonate (3.01 g, 21.8 mmol) was stirred at 150° C. for 24 h. Water (250 ml) was added and the mixture was extracted with ethyl acetate (250 ml). The crude extract was purified by chromatography using silica gel and a mixture of ethanol (4%) and dichloromethane as eluent. The product was isolated as the free base. Yield 1.47 g, 22%. M.p. 195-197° C.

reactant | 2-Nitro-N-(4-aminophenyl)aniline | 21.8 mmol, 5.0 g | [N+](=O)([O-])C1=C(NC2=CC=C(C=C2)N)C=CC=C1 | C12H11N3O2
reactant | 2-bromothiazole | 21.8 mmol, 3.58 g | BrC=1SC=CN1 | C3H2BrNS
reactant | potassium carbonate | 21.8 mmol, 3.01 g | C([O-])([O-])=O.[K+].[K+]
solvent | Water | 250 ml | O | H2O
product | 2-Nitro-N-(4-(2-thiazolylamino)phenyl)aniline | [N+](=O)([O-])C1=C(NC2=CC=C(C=C2)NC=2SC=CN2)C=CC=C1 | C15H12N4O2S
